**********
* Copyright Intusoft 1994-1997
* All Rights Reserved
**********
*SRC=PSK;PSK;!Generators;Signal;Phase shift key modulation
*SYM=PSK
*HELP issyntax.hlp "Coherent Binary PSK Source"
.SUBCKT PSK  3 {EB=??? NC=??? TB=???}
*Parameters:
* EB = Energy per bit
* NC = integer constant
* TB = bit duration (The Period is set to 2*Tb and the Duty is set to 50.)
* From equations in Communication Systems Haykin, Simon page 541
VSIG 2 0 PULSE {-(EB)^2} {(EB)^2} {TD} {TR} {TF} {50/100*(2*TB-TR-TF)} {2*TB}
B1 3 0 V = V(1) * V(2)
VLO1 1 0 SIN 0 {(2/EB)^2} {(NC)/TB}
.ENDS
*******
*SRC=FSK;FSK;!Generators;Signal;Frequency shift key modulation
*SYM=FSK
*HELP issyntax.hlp "Coherent Binary FSK Source"
.SUBCKT FSK  5 {EB=??? NC=??? TB=???}
*Parameters:
* EB = Energy per bit
* NC = integer constant
* TB = bit duration (The Period is set to 2*Tb and the Duty is set to 50.)
* From equations in Communication Systems Haykin, Simon page 544
VSIG 3 0 PULSE 0 {(EB)^2} {TD} {TR} {TF} {50/100*(2*TB-TR-TF)} {2*TB}
VSIGN 4 0 PULSE {(EB)^2} 0 {TD} {TR} {TF} {50/100*(2*TB-TR-TF)} {2*TB}
B1 5 0 V = (V(1) * V(3)) + (V(2) * V(4))
VLO1 1 0 SIN 0 {(2/EB)^2} {(NC+1)/TB}
VLO2 2 0 SIN 0 {(2/EB)^2} {(NC+2)/TB}
.ENDS
*******
*SRC=RWAVE;RWAVE;!Generators;Signal;0.5us 100KHz Waveform
*SYM=RWAVE
.SUBCKT RWAVE 2 {A=1.590 T1=0.533U T2=9.788U VP=100} 
X1 1 TIME
B1 2 0 V = {A * VP} * (1 - EXP( -1 * V(1) / {T1})) * EXP( -1 * V(1) / {T2}) * cos(6.283185307*100K * V(1))
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=WAVE820;WAVE820;!Generators;Signal;8/20us Waveform
*SYM=WAVE820
.SUBCKT WAVE820 2 {A=0.01243E18 T1=3.991U IP=1000}
X1 1 TIME
B1 0 2 I = {A * IP} * V(1)^3 * EXP( -1 * V(1) / {T1})
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=WAVE1250;WAVE1250;!Generators;Signal;1.2/50us Waveform
*SYM=WAVE1250
.SUBCKT WAVE1250 2 {A=1.037 T1=0.4074U T2=68.22U VP=1000}
X1 1 TIME
B1 2 0 V = {A * VP} * (1 - EXP( -1 * V(1) / {T1})) * EXP( -1 * V(1) / {T2})
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=WAV101K;WAV101K;!Generators;Signal;10/1000us Waveform
*SYM=WAV101K
.SUBCKT WAV101K 2 {A=1.019 T1=3.827U T2=1404U IP=1000}
X1 1 TIME
B1 0 2 I = {A * IP} * (1 - EXP( -1 * V(1) / {T1})) * EXP( -1 * V(1) / {T2})
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=RWAVE5K;RWAVE5K;!Generators;Signal;5KHz Ring Wave
*SYM=RWAVE
.SUBCKT RWAVE5K 2 {A=1.027 T1=0.7356U T2=280.4U VP=1000}
X1 1 TIME
B1 2 0 V = {A * VP} * (1 - EXP( -1 * V(1) / {T1})) * EXP( -1 * V(1) / {T2}) * cos(6.283185307*5K * V(1))
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=WAVEEFT;WAVEEFT;!Generators;Signal;EFT Waveform
*SYM=WAVEEFT
.SUBCKT WAVEEFT 2 {A=1.27 T1=3.5N T2=55.6N VP=1000}
X1 1 TIME
B1 2 0 V = {A * VP} * (1 - EXP( -1 * V(1) / {T1})) * EXP( -1 * V(1) / {T2})
.ENDS
*INCLUDE SIGNAL2.LIB
*******
*SRC=TIME_2;TIME_2;Behavioral;Function Block;Requires UIC in .TRAN
*SYM=TIME
.SUBCKT TIME_2  1 ; Requires UIC in the .TRAN statement
C1 1 0 1 IC=0
R1 1 0 1E12
I1 0 1 1
.ENDS
*******
*SRC=TIME;TIME;Behavioral;Function Block;Using Laplace
*SYM=TIME
.SUBCKT TIME  2  ; Does not requires UIC in the .TRAN statement 
A1 1 2 S_001  ; Laplace Code Model
V1 1 0 1
.Model S_001 s_xfer(num_coeff=[1] den_coeff=[1 0] out_ic=0)
.ENDS
*******
*SRC=GSINE;GSINE;!Generators;Signal;Gated Sine Wave
*SYM=GSINE
.SUBCKT GSINE 1        2     3    {OFFSET=0 AMP=??? FREQ=??? DELAY=0 DAMP=0} 
*Connections  Vcontrol Vout+ Vout-
*Parameters:
* Offset DC Voltage Offset in Volts
* Amp Amplitude in Volts
* Freq Frequency in Hz
* Delay Time Delay in Seconds
* Damp Damping factor (See Sin source for definition)
V1 4 0 SIN {OFFSET} {AMP} {FREQ} {DELAY} {DAMP}
Blimit 100 0 V=V(1) > .99 ? 1 : V(1) < .01 ? 0 : V(1)
B1 2 3 V=V(100)*V(4)
.ENDS
**********

